US07208513B2
B. 3-(5-(1H-1,2,4-Triazol-3-yl)-1H-indazol-3-yl)benzoic acid
The title compound was prepared using methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate (0.125 g, 0.19 mmol), 6 N sodium hydroxide (aqueous) (3 mL), and methanol (3 mL) heated at 60° C. for 6 hours. The reaction was allowed to cool to room temperature, and extracted with diethyl ether (2×). The aqueous fraction was dropwise added to a 6 N hydrochloride solution (aqueous) to form a white precipitate, which is filtered and dried in a vacuum oven (0.018 g, 30% yield): 1H NMR (DMSO-d6) δ 8.91 (m, 2H), 8.60 (s, 1H), 8.36 (d, 1H), 8.16 (d, 1H), 8.02 (d, 1H), 7.75 (m, 2H); ES-MS (m/z) 306 [M+1]+.

reactant | methyl 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}benzoate | 0.19 mmol, 0.125 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C41H35N5O3
reactant | sodium hydroxide | 6 N, 3 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 3-(5-(1H-1,2,4-Triazol-3-yl)-1H-indazol-3-yl)benzoic acid | 30% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C(=O)O)C=CC1 | C16H11N5O2
